US06310204B1
A stream of ozone in oxygen was bubbled into a solution of hexahydro-5-(methylene)-1,3-bis(4-nitrobenzenesulfonyl)pyrimidine (0.6 g, 1.3 mmol) in 150 mL acetone at −78° C. (dry ice-acetone bath) until a blue color persisted for 5 minutes. The reaction was stirred for 15 minutes under a nitrogen atmosphere. Next, 2.0 mL of dimethyl sulfide was added. After stirring for 10 minutes, the solvent was removed and the solid dried under reduced pressure to give 0.5 g (83%) of tetrahydro-1,3-bis(4-nitrobenzenesulfonyl)pyrimidin-5(4H)-one. [1H NMR (acetone-d6): δ 3.95 (s, 4 H), 5.25 (s, 2 H), 8.20, 8.48 (AB q, J=9.0 Hz, 8 H); 13C NMR (DMSO-d6): δ 53.8, 58.8, 124.8, 129.3, 141.9, 150.4, 196.2].

reactant | ozone | O=[O+][O-] | O3
reactant | hexahydro-5-(methylene)-1,3-bis(4-nitrobenzenesulfonyl)pyrimidine | 1.3 mmol, 0.6 g | C=C1CN(CN(C1)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C17H16N4O8S2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | dimethyl sulfide | 2.0 mL | CSC | C2H6S
solvent | oxygen | O=O | O2
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | tetrahydro-1,3-bis(4-nitrobenzenesulfonyl)pyrimidin-5(4H)-one | 0.5 g, 83% | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CN(CC(C1)=O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C16H14N4O9S2
